US07495001B2
D] (4-Methylamino-naphthalen-1-yloxy)-acetic acid ethyl ester
To 3.90 g (10.9 mmol) of the above prepared [4-(tert-butoxycarbonyl-methyl-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester, dissolved in 110 ml of CH2Cl2, was added via dropping funnel within 15 Min. 27.9 ml of TFA. After additional 30 Min. at RT, the bulk of the solvents was removed i. V. and the residue distributed between NaHCO3 and AcOEt. Washing with cold water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=8/2), gave 2.25 g of the title compound as off-white crystals.

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C2=CC=CC=C12)N(C)C(=O)OC(C)(C)C)=O | C20H25NO5
reactant | TFA | 27.9 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 110 ml | C(Cl)Cl | CH2Cl2
product | (4-Methylamino-naphthalen-1-yloxy)-acetic acid ethyl ester | 2.25 g | C(C)OC(COC1=CC=C(C2=CC=CC=C12)NC)=O | C15H17NO3
